US09029360B2
6-(6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one
The title compound was prepared in accordance with the general method of example 1 from 0.25 mmol 6-chloro-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid, 0.30 mmol HATU, 1.52 mmol DIPEA and 0.51 mmol 3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one in 1 mL DMF. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 20 mg (23% of theory). ESI-MS: m/z=350 (M+H)+.

reactant | 6-chloro-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid | 0.25 mmol | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | HATU | 0.30 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.52 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one | 0.51 mmol | S1C(NC=2CCNCCC21)=O | C7H10N2OS
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(N1)=O | C14H12ClN5O2S
